US05571810
A mixture of 2-(3,4-difluorophenyl)-3-[4-(methylthio)phenyl]acrylic acid (12 g) and phosphorus pentachloride (9.0 g) in dichloromethane (120 ml) was stirred for 1 hour. The solvent was evaporated to give a solid of 2-(3,4-difluorophenyl)-3-[4-(methylthio)phenyl]acryloyl chloride (13 g).

reactant | 2-(3,4-difluorophenyl)-3-[4-(methylthio)phenyl]acrylic acid | 12 g | FC=1C=C(C=CC1F)C(C(=O)O)=CC1=CC=C(C=C1)SC | C16H12F2O2S
reactant | phosphorus pentachloride | 9.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 2-(3,4-difluorophenyl)-3-[4-(methylthio)phenyl]acryloyl chloride | 13 g | FC=1C=C(C=CC1F)C(C(=O)Cl)=CC1=CC=C(C=C1)SC | C16H11ClF2OS
